US08278320B2
A solution of 5-chloropyrazin-2-amine (12.95 g, 100 mmol) and 1,1′-thiocarbonyldipyridin-2(1H)-one (27.9 g, 120 mmol) was stirred in DCM (200 mL) at room temperature for 1 h. The reaction was concentrated to ca. 100 mL volume and filtered through a pad of silica gel (1 L), washing with 10% EtOAc in hexanes. The filtrate was concentrated and dried to afford 2-chloro-5-isothiocyanatopyrazine (14.32 g, 83 mmol, 83% yield). 1H NMR (400 MHz, chloroform-d) δ ppm 8.38 (d, J=1.26 Hz, 1H) 8.18 (d, J=1.26 Hz, 1H). MS (LC/MS) R.T.=1.84; [M+H]+=172.09.

reactant | 5-chloropyrazin-2-amine | 100 mmol, 12.95 g | ClC=1N=CC(=NC1)N | C4H4ClN3
reactant | 1,1′-thiocarbonyldipyridin-2(1H)-one | 120 mmol, 27.9 g | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 2-chloro-5-isothiocyanatopyrazine | 83 mmol, 14.32 g, 83% yield | ClC1=NC=C(N=C1)N=C=S | C5H2ClN3S
